US07704995B2
To a solution of 1,1-dimethylethyl (4-fluoro-1-hydroxy-2,3-dihydro-1H-inden-2-yl)carbamate (0.30 g, 1.1 mmol) in CH2Cl2 (10 mL) was added TFA (1 mL), and the solution was heated to reflux. The solution was immediately cooled and concentrated in vacuo. The residue was taken up in MeOH and treated with Bio-Rad AG 1-X8 resin (hydroxide form) until pH 8. The product was filtered and concentrated in vacuo to give 0.12 g (64% yield) of 2-amino-4-fluoro-2,3-dihydro-1H-inden-1-ol, which was used without further purification for the subsequent reductive amination.

reactant | 1,1-dimethylethyl (4-fluoro-1-hydroxy-2,3-dihydro-1H-inden-2-yl)carbamate | 1.1 mmol, 0.30 g | FC1=C2CC(C(C2=CC=C1)O)NC(OC(C)(C)C)=O | C14H18FNO3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-4-fluoro-2,3-dihydro-1H-inden-1-ol | 0.12 g, 64% yield | NC1C(C2=CC=CC(=C2C1)F)O | C9H10FNO
